US04550170
2 g (0.01 mol) of 2,3,5,6-tetrahydro-6-phenylimidazo-[2,1-b]-thiazole and 2.8 g (0.01 mol) of decyl ester of monobromacetic acid are dissolved in 25 ml of acetone and allowed to stand overnight at room temperature. The product is filtered-off and washed with acetone to give 4.6 g (96%). After crystallization from dioxane there are obtained 3.6 g (75%) of 2,3,5,6-tetrahydro-6-phenyl-7-decyloxycarbonylmethylimidazo-[2,1-b]-thiazolium bromide, m.p. 127°-128° C.

reactant | 2,3,5,6-tetrahydro-6-phenylimidazo-[2,1-b]-thiazole | 0.01 mol, 2 g | C1(=CC=CC=C1)C1N=C2SCCN2C1 | C11H12N2S
reactant | monobromacetic acid | BrCC(=O)O | C2H3BrO2
reactant | acetone | 25 ml | CC(=O)C | C3H6O
product | 2,3,5,6-tetrahydro-6-phenyl-7-decyloxycarbonylmethylimidazo-[2,1-b]-thiazolium bromide | 3.6 g, 75% | [Br-].C1(=CC=CC=C1)C1N(C=2SCC[N+]2C1)CC(=O)OCCCCCCCCCC | InChI=1S/C23H35N2O2S.BrH/c1-2-3-4-5-6-7-8-12-16-27-22(26)19-25-21(20-13-10-9-11-14-20)18-24-15-17-28-23(24)25;/h9-11,13-14,21H,2-8,12,15-19H2,1H3;1H/q+1;/p-1
